US05763599
Triton B (4 ml, 35% in MeOH) was added to a mixture of 4-chloro-2-nitrotoluene (50 g, 291 mmol) and paraformaldehyde (3.8 g, 120 mmol) in DMSO (40 ml, synthesis quality, additionally dried for 2 d over molecular sieve 4 Å) and stirred for 2.5 h at 900° C. It was neutralized with a few drops of conc. HCl, diluted with H2O (100 ml) and extracted using EtOAc (5×150 ml). The combined organic phases were dried over MgSO4, filtered and concentrated under reduced pressure. The oily residue was purified by sublimation in a high vacuum (p=0.1 torr, oil bath temperature 1100° C.). 2-(4-chloro-2-nitrophenyl)ethanol (13.23 g, 55%) was obtained in the form of yellow crystals.

reactant | 4-chloro-2-nitrotoluene | 291 mmol, 50 g | ClC1=CC(=C(C=C1)C)[N+](=O)[O-] | C7H6ClNO2
reactant | paraformaldehyde | 120 mmol, 3.8 g | C=O | CH2O
solvent | MeOH | CO | CH4O
solvent | DMSO | CS(=O)C | C2H6OS
product | 2-(4-chloro-2-nitrophenyl)ethanol | 13.23 g, 55% | ClC1=CC(=C(C=C1)CCO)[N+](=O)[O-] | C8H8ClNO3
